US07015218B1
To a dimethylformamide solution (30 ml) containing 2-chloro-5-nitrobenzonitrile (10 g) and 2,2,2-trifluoroethanol (6 g) was added sodium hydride (60% content, 2.65 g) under ice-cooling, and the mixture was stirred for 1 h. The reaction mixture was added to water and extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of toluene-diisopropyl ether to give 5-nitro-2-(2,2,2-trifluoroethoxy)benzonitrile (9.4 g), melting point: 94° C.

reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-nitrobenzonitrile | 10 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 2,2,2-trifluoroethanol | 6 g | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 2.65 g | [H-].[Na+]
solvent | water | O | H2O
product | 5-nitro-2-(2,2,2-trifluoroethoxy)benzonitrile | 9.4 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)OCC(F)(F)F | C9H5F3N2O3
